US07465731B2
To a solution of (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-5-chloro-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (168 mg) in EtOH (2 ml) was treated with 10% HCl in MeOH (1.76 ml) and was stirred at 25° C. for 1 hour. The precipitate was collected, washed with EtOH, dried under reduced pressure to give (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-5-chloro-3-pyridyl}-N-hydroxyacrylamide dihydrochloride (137 mg).

reactant | (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-5-chloro-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 168 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=N1)/C=C/C(=O)NOC1OCCCC1)Cl | C25H31ClN4O3
reactant | HCl | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | MeOH | 1.76 ml | CO | CH4O
product | (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-5-chloro-3-pyridyl}-N-hydroxyacrylamide dihydrochloride | 137 mg | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=N1)/C=C/C(=O)NO)Cl | InChI=1S/C20H23ClN4O2.2ClH/c21-18-12-16(6-7-19(26)24-27)13-22-20(18)23-17-8-10-25(11-9-17)14-15-4-2-1-3-5-15;;/h1-7,12-13,17,27H,8-11,14H2,(H,22,23)(H,24,26);2*1H/b7-6+;;
